US07314933B2
Quinolin-7-ylboronic acid. A mixture of 7-aminoquinoline (4.02 g, 27.9 mmol), CsI (Aldrich, 7.32 g, 28.2 mmol), iodine (Aldrich, 5.71 g, 22.5 mmol), CuI (Aldrich, 2.67 g, 14.0 mmol) and isoamyl nitrite (Aldrich, 22 mL, 19.18 g, 163.7 mmol) in 200 mL DME was heated to 60° C. After 2 h the reaction was cooled to room temperature and filtered. The filtrate was diluted with 300 mL toluene and washed consecutively with 25% NH4OH (2×100 mL), 5% Na2S2O3 (2×100 mL) and 5% NaCl (2×100 mL). The organic solution was dried over Na2SO4, evaporated onto SiO2 and purified by flash column chromatography eluting with EtOAc/Hex (0-25%) to give 7-iodoquinoline. MS (ESI, pos ion.) m/z: 256 (M+1). To a cooled (−78° C.) solution of the above 7-iodoquinoline (2.66 g, 10.4 mmol) in 20 mL THF was added 2.5M n-BuLi (5.0 mL, 12.5 mmol) drop-wise over 20 min. After an additional 20 min, B(OMe)3 (Aldrich, 3.0 mL, 26.9 mmol) was added dropwise and the reaction was warmed to room temperature. After 4 h the reaction was cooled to −78° C. and 2.5M n-BuLi (5.0 mL, 12.5 mmol) was added and the mixture allowed to warm to room temperature. After 2 h 2.5M HCl (40 mL) was added and the mixture washed with Et2O. The aqueous layer was neutralized with solid NaHCO3, extracted with 10% i-PrOH/EtOAc and the solvent removed in vacuo to give a rust colored amorphous solid. MS (ESI, pos ion). m/z: 174 (M+1).

reactant | Quinolin-7-ylboronic acid | N1=CC=CC2=CC=C(C=C12)B(O)O | C9H8BNO2
reactant | 7-aminoquinoline | 27.9 mmol, 4.02 g | NC1=CC=C2C=CC=NC2=C1 | C9H8N2
reactant | CsI | 28.2 mmol, 7.32 g | [I-].[Cs+]
reactant | iodine | 22.5 mmol, 5.71 g | II | I2
reactant | isoamyl nitrite | 163.7 mmol, 22 mL, 19.18 g | N(=O)OCCC(C)C | C5H11NO2
solvent | DME | 200 mL | COCCOC | C4H10O2
catalyst | CuI | 14.0 mmol, 2.67 g | [Cu]I
product | 7-iodoquinoline | IC1=CC=C2C=CC=NC2=C1 | C9H6IN
